US04180672
2-(5-Carbomethoxypentylthio)cyclopent-2-en-1-one (133 mg) was treated with 0.8 ml of a 3 N aqueous solution of sodium hydroxide in 5 ml of methanol and 2 ml of water at room temperature for 45 minutes. After the reaction, the reaction mixture was extracted with diethyl ether. The aqueous layer was acidified with hydrochloric acid, and extracted with diethyl ether. The extracts were treated in a customary manner to afford 125 mg of a crude product. The crude product was chromatographed on a thin layer plate with diethyl ether/isopropyl ether/acetic acid (=75/30/3) to afford 65 mg of 2-(5-carboxypentylthio)cyclopent-2-en-1-one in a yield of 49%. The product had the following characteristics.

reactant | 2-(5-Carbomethoxypentylthio)cyclopent-2-en-1-one | 133 mg | C(=O)(OC)CCCCCSC=1C(CCC1)=O | C12H18O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 2-(5-carboxypentylthio)cyclopent-2-en-1-one | 65 mg, yield of 49% | C(=O)(O)CCCCCSC=1C(CCC1)=O | C11H16O3S
